US04830948
Nitrilotriacetic acid;
diethylenetriaminepentaacetic acid; ethylenediaminetetraacetic acid; N,N,N-trimethylenephosphonic acid; ethylenediamine-N,N,N',N'-tetramethylenephosphonic acid; transcyclohexanediaminetetraacetic acid; 1,2-diaminopropanetetraacetic acid; glycoletherdiaminetetraacetic acid; ethylenediamineorthohydroxyphenylacetic acid; 2-phosphonobutane-1,2,4-tricarboxylic acid; 1-hydroxyethylidene-1,1-diphosphonic acid; N,N'-bis(2-hydroxybenzyl)ethylenediamine-N,N'-diacetic acid.

reactant | diethylenetriaminepentaacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
reactant | ethylenediaminetetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | 1,2-diaminopropanetetraacetic acid | CC(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C11H18N2O8
reactant | glycoletherdiaminetetraacetic acid | C(COCCOCCN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C14H24N2O10
reactant | 2-phosphonobutane-1,2,4-tricarboxylic acid | P(=O)(O)(O)C(CC(=O)O)(CCC(=O)O)C(=O)O | C7H11O9P
reactant | 1-hydroxyethylidene-1,1-diphosphonic acid | CC(O)(P(=O)(O)O)P(=O)(O)O | C2H8O7P2
reactant | N,N'-bis(2-hydroxybenzyl)ethylenediamine-N,N'-diacetic acid | C1=CC=C(C(=C1)CN(CCN(CC2=CC=CC=C2O)CC(=O)O)CC(=O)O)O | C20H24N2O6
product | Nitrilotriacetic acid | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
